US04439433
A mixture of 5 g of syn isomer of 2-(2-tritylamino-4-thiazolyl)-2-(2-iodoethoxyimino)-acetic acid solvated with dichloroethane (=4.27 g of pure product) and 30 ml of pyridine was heated at 60° C. for 24 hours and then stood at room temperature for 56 hours. The mixture was vacuum filtered and the recovered product was rinsed with pyridine and then ether and dried to obtain 1.66 g of the syn isomer of 2-(2-tritylamino-4-thiazolyl)-2-(2-pyridylethoxyimino)-acetic acid (pyridinium internal salt) melting at 250° C. (decomposition).

reactant | 2-(2-tritylamino-4-thiazolyl)-2-(2-iodoethoxyimino)-acetic acid | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)C(C(=O)O)=NOCCI | C26H22IN3O3S
reactant | dichloroethane | 4.27 g | ClC(C)Cl | C2H4Cl2
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | 2-(2-tritylamino-4-thiazolyl)-2-(2-pyridylethoxyimino)-acetic acid | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)C(C(=O)O)=NOCCC1=NC=CC=C1 | C31H26N4O3S
